US07247628B2
1-(Benzyl-isopropyl-amino)-2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-propan-2-ol (4A-1)
Methyl magnesium bromide (0.1 ml, 0.144 mmol) was added dropwise into the solution of 2-(benzyl-isopropyl-amino)-1-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-ethanone (61 mg, 0.12 mmol) in 0.5 ml THF at room temperature. After 2 h, the reaction mixture was then partitioned with ethyl acetate and saturated NH4Cl. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (silica gel, 30% ethyl acetate/hexanes) to give the title compound 4A-1 as a white waxy solid (24 mg).

reactant | Methyl magnesium bromide | 0.144 mmol, 0.1 ml | C[Mg]Br
reactant | 2-(benzyl-isopropyl-amino)-1-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-ethanone | 0.12 mmol, 61 mg | C(C1=CC=CC=C1)N(CC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(C)C | C28H27Cl2N3O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 1-(Benzyl-isopropyl-amino)-2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-propan-2-ol | C(C1=CC=CC=C1)N(CC(C)(O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(C)C | C29H31Cl2N3O
